US05055477
Concentrated sulfuric acid was added to a solution of methanol (9.5 ml) and water (0.5 ml) under ice-cooling, and (4-benzyloxy-1,3-dimethylpyrazol-5-yl)acetonitrile (1.6 g, 6.6 mmol) was added thereto and the resulting mixture was heated for 6 hours under reflux. It was then concentrated in vacuo to remove methanol. The residue was diluted with ethyl acetate, successively washed with water, aquaous sodium bicarbonate, water, and saturated brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was chromatographed over silica gel (eluent; ethyl acetate/n-hexane=1:2) to obtain methyl (4-benzyloxy-1,3- dimethyl-pyrazol-5-yl)acetate (0.6 g, 2.2 mmol, 33 %).

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 9.5 ml | CO | CH4O
reactant | (4-benzyloxy-1,3-dimethylpyrazol-5-yl)acetonitrile | 6.6 mmol, 1.6 g | C(C1=CC=CC=C1)OC=1C(=NN(C1CC#N)C)C | C14H15N3O
reactant | water | 0.5 ml | O | H2O
product | methyl (4-benzyloxy-1,3- dimethyl-pyrazol-5-yl)acetate | 2.2 mmol, 0.6 g, 33 % | C(C1=CC=CC=C1)OC=1C(=NN(C1CC(=O)OC)C)C | C15H18N2O3
